US08258130B2
A suspension of NaH (4.4 g, 110 mmol, 60% in mineral oil) in DMF (37 mL) at 0° C. is treated with 5-fluoro-1H-pyrrolo[2,3-b]pyridine (1.0 g, 7.4 mmol) and stirred at 0° C. for 1 h. The mixture is treated with HOSA (4.2 g, 37 mmol) portion wise and warmed to rt over 2 h. The mixture is then poured over ice, filtered through a pad of Celite, and extracted with EtOAc (3×50 mL). The combined organic layer is dried (Na2SO4), filtered and concentrated in vacuo. The residue is purified by silica gel chromatography eluting with 30%-70% EtOAc in heptane to afford 5-fluoro-pyrrolo[2,3-b]pyridin-1-ylamine (980 mg, 88%). MS: 152 (M+H); 1H NMR (300 MHz, CDCl3): δ 8.20 (s, 1H), 7.60 (m, 1H), 7.42 (m, 1H), 6.36 (s, 1H), 5.01 (s, NH2, 2H).

reactant | NaH | 110 mmol, 4.4 g | [H-].[Na+]
reactant | 5-fluoro-1H-pyrrolo[2,3-b]pyridine | 7.4 mmol, 1.0 g | FC=1C=C2C(=NC1)NC=C2 | C7H5FN2
reactant | DMF | 37 mL | CN(C)C=O | C3H7NO
product | 5-fluoro-pyrrolo[2,3-b]pyridin-1-ylamine | 980 mg, 88% | FC=1C=C2C(=NC1)N(C=C2)N | C7H6FN3
